US06759428B2
3-(3-dimethylamino-prop-1-ynyl)-1H-indazole-5-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)cyclohexyl]-amide (7 mg) was stirred with 5 mg 10% Pd/CaCO3 in methanol under hydrogen (balloon). After two hours at room temperature the mixture was degassed with nitrogen, filtered through celite to remove the catalyst and the solution concentrated to give 7 mg of 3-(3-dimethylamino-propyl)-1H-indazole-5-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)cyclohexyl]-amide.

reactant | 3-(3-dimethylamino-prop-1-ynyl)-1H-indazole-5-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)cyclohexyl]-amide | 7 mg | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1C=C2C(=NNC2=CC1)C#CCN(C)C | C26H34N6O2
solvent | methanol | CO | CH4O
catalyst | Pd CaCO3 | 5 mg | [Pd].C(=O)([O-])[O-].[Ca+2]
product | 3-(3-dimethylamino-propyl)-1H-indazole-5-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)cyclohexyl]-amide | 7 mg | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1C=C2C(=NNC2=CC1)CCCN(C)C | C26H38N6O2
